US06180635B2
c) 3-Methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidin-2,4(1H,3H)-dione
Sodium acetate (38.9 g) was added to a stirred suspension of 3-methyl-1-(2-methylpropyl)-6-thioxo-pyrimidine-2,4(1H,3H)-dione (25.42 g) in water (11). After 5 hours, the mixture was filtered. Aqueous chloroacetaldehyde solution (50wt. %, 142 ml) was added to the filtrate and the mixture was stirred for 16 hours. The mixture was acidified with concentrated hydrochloric acid and extracted with ethyl acetate (3×500 ml). The combined organic extracts were washed with saturated sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residual oil was purified by column chromatography over silica, eluting with isohexane: ether (1:1) to give the title compound (26.78 g) as a solid.

reactant | Sodium acetate | 38.9 g | C(C)(=O)[O-].[Na+]
reactant | 3-methyl-1-(2-methylpropyl)-6-thioxo-pyrimidine-2,4(1H,3H)-dione | 25.42 g | CN1C(N(C(CC1=O)=S)CC(C)C)=O | C9H14N2O2S
solvent | water | O | H2O
product | 3-Methyl-1-(2-methylpropyl)thieno[2,3-d]pyrimidin-2,4(1H,3H)-dione | 26.78 g | CN1C(N(C2=C(C1=O)C=CS2)CC(C)C)=O | C11H14N2O2S
